US09353107B2
Step-iii: 3-(1-(3-chlorobenzyl)-3,5-dimethyl-1H-pyrazol-4-yl)-5-(4-(piperazin-1-yl)phenyl)-1H-pyrrolo[2,3-b]pyridine hydrochloride
Using similar reaction conditions as described in step-ii of example-7, tert-butyl 4-(4-(3-(1-(3-chlorobenzyl)-3,5-dimethyl-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)piperazine-1-carboxylate (12 mg, 0.02 mmol) was deprotected in methanol/1,4-dioxane in (0.3/2 ml). This afforded 5 mg (55% yield) of the titled compound. 1H NMR (CD3OD, 400 MHz): δ 8.72 (s, 1H), 8.669 (s, 1H), 7.85 (s, 1H), 7.71-7.69 (d, 2H), 7.42-7.39 (m, 2H), 7.32 (s, 1H), 7.24-7.18 (m, 3H), 5.52 (s, 2H), 3.53-3.50 (m, 4H), 3.41-3.38 (m, 4H), 2.33-2.32 (d, 6H). MS: m/z=497.2 (M+1), HPLC—95.77% (method-B).

reactant | tert-butyl 4-(4-(3-(1-(3-chlorobenzyl)-3,5-dimethyl-1H-pyrazol-4-yl)-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)piperazine-1-carboxylate | 0.02 mmol, 12 mg | ClC=1C=C(CN2N=C(C(=C2C)C2=CNC3=NC=C(C=C32)C3=CC=C(C=C3)N3CCN(CC3)C(=O)OC(C)(C)C)C)C=CC1 | C34H37ClN6O2
solvent | methanol 1,4-dioxane | CO.O1CCOCC1
product | 3-(1-(3-chlorobenzyl)-3,5-dimethyl-1H-pyrazol-4-yl)-5-(4-(piperazin-1-yl)phenyl)-1H-pyrrolo[2,3-b]pyridine hydrochloride | 5 mg, 55% yield | Cl.ClC=1C=C(CN2N=C(C(=C2C)C2=CNC3=NC=C(C=C32)C3=CC=C(C=C3)N3CCNCC3)C)C=CC1 | InChI=1S/C29H29ClN6.ClH/c1-19-28(20(2)36(34-19)18-21-4-3-5-24(30)14-21)27-17-33-29-26(27)15-23(16-32-29)22-6-8-25(9-7-22)35-12-10-31-11-13-35;/h3-9,14-17,31H,10-13,18H2,1-2H3,(H,32,33);1H
